US09290485B2
c) Methyl 2-(6-amino-3-((1-benzyl-1H-pyrazole-4-carboxamido)methyl)-2-methylpyridin-4-yloxy)acetate
Methyl 2-(6-amino-3-(aminomethyl)-2-methylpyridin-4-yloxy)acetate (271 mg, 0.909 mmol), 1-benzyl-1H-pyrazole-4-carboxylic acid (synthesis description below) (184 mg, 0.909 mmol) and DIPEA (0.794 ml, 4.54 mmol) were dissolved in DMF (2 ml), then HATU (518 mg, 1.363 mmol) was added and the reaction mixture was stirred over night at rt. Purification by prep HPLC (Sun-Fire C18, 100×30mm 5 to 100% ACN and 0.1% TFA, flow 40 mml/min.) offered the titled compound after lyophilisation. HPLC (Method C) Rtc=2.789 min, MS (Method D): [M+H]+=410.0.

reactant | Methyl 2-(6-amino-3-(aminomethyl)-2-methylpyridin-4-yloxy)acetate | 0.909 mmol, 271 mg | NC1=CC(=C(C(=N1)C)CN)OCC(=O)OC | C10H15N3O3
reactant | 1-benzyl-1H-pyrazole-4-carboxylic acid | 0.909 mmol, 184 mg | C(C1=CC=CC=C1)N1N=CC(=C1)C(=O)O | C11H10N2O2
reactant | DIPEA | 4.54 mmol, 0.794 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.363 mmol, 518 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Methyl 2-(6-amino-3-((1-benzyl-1H-pyrazole-4-carboxamido)methyl)-2-methylpyridin-4-yloxy)acetate | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC1=CC=CC=C1)OCC(=O)OC | C21H23N5O4
